US05545644
(R)-5-(2-Phenylsulfonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
A suspension of (R)-1-acetyl-5-(benzenesulfonylethenyl)-3-(N-methyl-pyrrolidin-2-ylmethyl)-1H-indole (220.8 g) in methanol (2.21 L) was treated with potassium carbonate (72.23 g) and stirred at ambient temperature. After about one hour active carbon (22.1 g) was added to the solution then water (660 mL) added slowly. The mixture was filtered and the filtrate heated to reflux and water (660 mL) added dropwise. The mixture was allowed to cool and crystallize, then further water was added slowly (3.31.1). The resulting solid was filtered, washed with 1:2 methanol:water mixture (2×200 mL) then dried in vacuo to give the title compound (149 g): mp, 84°-87° C. IR (KBr) 1600, 1450, 1290, 1145, 1085 cm-1 : 1H NMR (CDCl3) 8.4 (b, 1H), 8.0 (d, 2H), 7.8 (d, 1H), 7.7 (s, 1H), 7.6-7.5 (m, 3H), 7.3 (s, 2H), 7.05 (b, 1H), 6.75 (d, 1H), 3.15 (re, 2H), 2.6 (111, 1H), 2.45 (s, 3H), 2.4 (s, 1H), 2.2 (111, 1H), 2.0-0.5 (m, 4H); LRMS (TSP), ml/z 381, 165, 133,119.

reactant | (R)-1-acetyl-5-(benzenesulfonylethenyl)-3-(N-methyl-pyrrolidin-2-ylmethyl)-1H-indole | 220.8 g | C(C)(=O)N1C=C(C2=CC(=CC=C12)C=CS(=O)(=O)C1=CC=CC=C1)C[C@@H]1N(CCC1)C | C24H26N2O3S
reactant | potassium carbonate | 72.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 660 mL | O | H2O
solvent | methanol | 2.21 L | CO | CH4O
product | (R)-5-(2-Phenylsulfonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 149 g | C1(=CC=CC=C1)S(=O)(=O)C=CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C22H24N2O2S
